### PR TITLE
[Merged by Bors] - feat: dualize Pseudofunctor.CoGrothendieck results to Pseudofunctor.Grothendieck

### PR DESCRIPTION
**Pull request by Jlh18**
Continuing from #29681, dualize all definitions and lemmas in the namespace `Pseudofunctor.CoGrothendieck` to results in the namespace `Pseudofunctor.Grothendieck`.

- [x] depends on: #29681

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Bicategory/Grothendieck.lean [hunk 1]
```diff
@@ -106,6 +105,119 @@ instance categoryStruct : CategoryStruct (∫ F) where
...
+  map_comp {a b c} f g := by
+    ext
+    · dsimp
+    · simp only [Cat.comp_obj, categoryStruct_comp_base, Quiver.Hom.comp_toLoc,
+        categoryStruct_comp_fiber, eqToHom_refl, naturality_comp_inv_app, Strict.associator_eqToIso,
+        eqToIso_refl, Iso.refl_inv, Cat.id_app, Iso.refl_hom, id_comp, assoc, ← map_comp,
+        Iso.inv_hom_id_app_assoc, NatIso.cancel_natIso_hom_left]
+      have := (α.naturality g.base.toLoc).inv.naturality_assoc
+      simp only [Cat.comp_map] at this
+      simp [this]
```
Comment (callesonne) [inline Mathlib/CategoryTheory/Bicategory/Grothendieck.lean]: Could this be made into a one-liner using `simpa [Cat.comp_map] using (α.naturality g.base.toLoc).inv.naturality_assoc`?

Comment (callesonne) [reply Mathlib/CategoryTheory/Bicategory/Grothendieck.lean]: The proof also seems longer than the corresponding `CoGrothendieck` result. Is this just because I hid a lot of simp lemmas in `dsimp` (which maybe should be a `dsimp only`...? Or can this proof be golfed accordingly.

Comment (Jlh18) [reply Mathlib/CategoryTheory/Bicategory/Grothendieck.lean]: Thanks for the review!

> Could this be made into a one-liner using `simpa [Cat.comp_map] using (α.naturality g.base.toLoc).inv.naturality_assoc`?

This failed, the issue is that 
1. `(α.naturality g.base.toLoc).inv.naturality_assoc` is not stated in simp normal form. Maybe this is a general `reassoc` issue? and 
2. `Functor.map_comp` needs to be simped `->` for a rewrite on the lhs and `<-` for a rewrite on the rhs.

I golfed it somewhat, but not the way you suggested. I think `dsimp` unsqueezed is fine.

File: Mathlib/CategoryTheory/Bicategory/Grothendieck.lean [hunk 2]
```diff
@@ -106,6 +105,115 @@ instance categoryStruct : CategoryStruct (∫ F) where
...
+    fiber := (α.naturality f.1.toLoc).inv.app a.fiber ≫ (α.app ⟨b.base⟩).map f.2 }
+  map_id a := by
+    ext
+    · dsimp
+    · simp [StrongTrans.naturality_id_inv_app, ← map_comp]
+  map_comp {a b c} f g := by
+    ext
+    · dsimp
+    · dsimp
+      slice_rhs 2 3 => erw [map_comp, assoc, (α.naturality g.base.toLoc).inv.naturality]
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Bicategory/Grothendieck.lean]: There was no `erw` in the dual proof. Could you try to remove it?

Comment (Jlh18) [reply Mathlib/CategoryTheory/Bicategory/Grothendieck.lean]: The shortest proof I have without `erw` is something like this
```lean4
  map_comp {a b c} f g := by
    ext
    · dsimp
    · dsimp
      have := (α.naturality g.base.toLoc).inv.naturality_assoc
      simp only [Cat.comp_obj, Cat.comp_map] at this
      simp only [map_comp, assoc, this]
      simp [naturality_comp_inv_app, ← map_comp]
```

Comment (Jlh18) [reply Mathlib/CategoryTheory/Bicategory/Grothendieck.lean]: Nevermind: 

```
    ext
    · dsimp
    · dsimp
      simp only [map_comp, assoc, ← Cat.comp_map, (α.naturality g.base.toLoc).inv.naturality_assoc]
      simp [naturality_comp_inv_app, ← map_comp]
```

File: Mathlib/CategoryTheory/Bicategory/Grothendieck.lean [hunk 3]
```diff
@@ -106,6 +105,115 @@ instance categoryStruct : CategoryStruct (∫ F) where
...
+    fiber := (α.naturality f.1.toLoc).inv.app a.fiber ≫ (α.app ⟨b.base⟩).map f.2 }
+  map_id a := by
+    ext
+    · dsimp
+    · simp [StrongTrans.naturality_id_inv_app, ← map_comp]
+  map_comp {a b c} f g := by
+    ext
+    · dsimp
+    · dsimp
+      simp only [map_comp, assoc, ← Cat.comp_map, (α.naturality g.base.toLoc).inv.naturality_assoc]
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Bicategory/Grothendieck.lean]:
```suggestion
      simp only [map_comp, assoc, ← Cat.comp_map, NatTrans.naturality_assoc]
```

File: Mathlib/CategoryTheory/Bicategory/Grothendieck.lean [hunk 4]
```diff
@@ -152,10 +263,8 @@ variable {a b : ∫ᶜ F}
 lemma Hom.ext (f g : a ⟶ b) (hfg₁ : f.base = g.base)
     (hfg₂ : f.fiber = g.fiber ≫ eqToHom (hfg₁ ▸ rfl)) : f = g := by
   cases f; cases g
-  congr
   dsimp at hfg₁
-  rw [← conj_eqToHom_iff_heq _ _ rfl (hfg₁ ▸ rfl)]
-  simpa only [eqToHom_refl, id_comp] using hfg₂
+  aesop_cat
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Bicategory/Grothendieck.lean]:
```suggestion
  cat_disch
```

File: Mathlib/CategoryTheory/Bicategory/Grothendieck.lean (hunk 1 above)
Comment (dagurtomas) [reply Mathlib/CategoryTheory/Bicategory/Grothendieck.lean]: @callesonne are you happy with the proof? (I added a small suggestion, there is no need to provide `simp` with the full name of the natural transformation `(α.naturality g.base.toLoc).inv`)

Comment (Jlh18) [reply Mathlib/CategoryTheory/Bicategory/Grothendieck.lean]: Thanks!

File: Mathlib/CategoryTheory/Bicategory/Grothendieck.lean [hunk 5]
```diff
@@ -106,6 +105,115 @@ instance categoryStruct : CategoryStruct (∫ F) where
...
+@[simp]
+theorem map_comp_forget (α : F ⟶ G) : map α ⋙ forget G = forget F := rfl
+
+section
+
+variable (F)
+
+/-- The natural isomorphism witnessing the pseudo-unity constraint of `Grothendieck.map`. -/
+def mapIdIso : map (𝟙 F) ≅ 𝟭 (∫ F) :=
+  NatIso.ofComponents (fun _ ↦ eqToIso (by aesop_cat))
```
Comment (callesonne) [inline Mathlib/CategoryTheory/Bicategory/Grothendieck.lean]:
```suggestion
  NatIso.ofComponents (fun _ ↦ eqToIso (by cat_disch))
```

File: Mathlib/CategoryTheory/Bicategory/Grothendieck.lean [hunk 6]
```diff
@@ -106,6 +105,115 @@ instance categoryStruct : CategoryStruct (∫ F) where
...
+
+lemma map_id_eq : map (𝟙 F) = 𝟭 (∫ F) :=
+  Functor.ext_of_iso (mapIdIso F) (fun x ↦ by simp [map]) (fun x ↦ by simp [mapIdIso])
+
+end
+
+/-- The natural isomorphism witnessing the pseudo-functoriality of `Grothendieck.map`. -/
+def mapCompIso (α : F ⟶ G) (β : G ⟶ H) : map (α ≫ β) ≅ map α ⋙ map β :=
+  NatIso.ofComponents (fun _ ↦ eqToIso (by aesop_cat)) (fun f ↦ by
```
Comment (callesonne) [inline Mathlib/CategoryTheory/Bicategory/Grothendieck.lean]:
```suggestion
  NatIso.ofComponents (fun _ ↦ eqToIso (by cat_disch)) (fun f ↦ by
```

File: Mathlib/CategoryTheory/Bicategory/Grothendieck.lean [hunk 7]
```diff
@@ -106,6 +105,115 @@ instance categoryStruct : CategoryStruct (∫ F) where
...
+section
+
+variable {a b : ∫ F}
+
+@[ext (iff := false)]
+lemma Hom.ext (f g : a ⟶ b) (hfg₁ : f.base = g.base)
+    (hfg₂ : eqToHom (hfg₁ ▸ rfl) ≫ f.fiber = g.fiber) : f = g := by
+  cases f; cases g
+  dsimp at hfg₁ hfg₂
+  aesop_cat
```
Comment (callesonne) [inline Mathlib/CategoryTheory/Bicategory/Grothendieck.lean]:
```suggestion
  cat_disch
```

**Review by callesonne — APPROVED** [review]
Nice, LGTM! Also definitely add yourself as coauthor to the file if you want :)
